US04282246
5-(2-Chlorophenylthio)furan-3-carboxylic Acid
o-Chlorothiophenol (4.5 g., 31 mmoles) and cuprous oxide (2.2 g., 15.5 mmoles) in 100 ml. of dimethylformamide were heated in an oil bath at 170°-175° C. for 1.5 hours, during which time a precipitate formed. 5-Bromofuran-3-carboxylic acid (3 g., 15.7 mmoles) was added and heating continued for 2.5 hours. The reaction mixture was cooled to room temperature, filtered, diluted with 500 ml. of water, acidified with conc. hydrochloric acid and product extracted into 250 ml. of ethyl acetate. The ethyl acetate was back-washed with 150 ml. of water and insolubles removed by filtration. Product was extracted from the ethyl acetate into 150 ml. of 1 N sodium hydroxide, the aqueous phase acidified with conc. hydrochloric acid and product reextracted into 150 ml. of fresh ethyl acetate. The ethyl acetate was back-washed with water and concentrated to an oil (3.5 g.). Recrystallization from ether/hexane gave partially purified product in two crops (575 mg., 403 mg.). These were combined and chromatographed on approximately 150 ml. of silica gel with hexane/5% acetic acid as eluant. Middle fractions afforded purified 5-(2-chlorophenylthio)furan-3-carboxylic acid (490 mg., m.p. 146°-148° C., m/e 254).

reactant | o-Chlorothiophenol | 31 mmoles, 4.5 g | ClC1=C(C=CC=C1)S | C6H5ClS
reactant | 5-Bromofuran-3-carboxylic acid | 15.7 mmoles, 3 g | BrC1=CC(=CO1)C(=O)O | C5H3BrO3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(2-Chlorophenylthio)furan-3-carboxylic Acid | ClC1=C(C=CC=C1)SC1=CC(=CO1)C(=O)O | C11H7ClO3S
